US08138189B2
Step 8: 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-benzoic acid methyl ester
To a solution of 5-[2-(2-chloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one (64 mg) in CH2Cl2 (1.5 ml) were added 4-methoxycarbonylphenyl-boronic acid (96 mg), copper-(II)-acetate (96 mg), molecular sieve and pyridine (70 mg). The mixture was stirred at room temperature under an air atmosphere with exclusion of moisture for 18 hours. The mixture was filtered, diluted with CH2Cl2 and washed with 1 M HCl. The organic phase was dried (MgSO4), filtered and concentrated to dryness. The product was purified by chromatography (SiO2, cyclohexane/EtOAc 4:1=>0:1) to give the title compound (91 mg) as a colorless foam. MS (m/e, ISP neg. ion)=494.1 [M−H+].

reactant | 5-[2-(2-chloro-4-hydroxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | 64 mg | ClC1=C(C=CC(=C1)O)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C16H15ClF3NO3
reactant | 4-methoxycarbonylphenyl-boronic acid | 96 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | pyridine | 70 mg | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1.5 ml | C(Cl)Cl | CH2Cl2
catalyst | copper-(II)-acetate | 96 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 4-{3-Chloro-4-[3,3,3-trifluoro-2-hydroxy-1-methyl-2-(1-methyl-6-oxo-1,6-dihydro-pyridin-3-yl)-propyl]-phenoxy}-benzoic acid methyl ester | 91 mg | COC(C1=CC=C(C=C1)OC1=CC(=C(C=C1)C(C(C(F)(F)F)(C1=CN(C(C=C1)=O)C)O)C)Cl)=O | C24H21ClF3NO5
